US08748415B2
Step 2. Preparation of ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate
To a solution of ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate (8.6 g, 15.73 mmol) in CH2Cl2 (100 ml) was added PCC (5.09 g, 23.59 mmol). After 7.25 h of stirring at rt, the mixture was filtered through a pad of celite and silica gel and was washed with dichloromethane then with 1:1 EtOAc:hexanes. The filtrate was concentrated under reduced pressure to give the title compound as a white foam (8.26 g, 15.16 mmol, 96% yield). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.05 (d, J=7.32 Hz, 2H),7.56 (t, J=7.48 Hz, 1H), 7.44 (t, J=7.63 Hz, 2H), 4.72 (s, 1H), 4.61 (s, 1H), 4.52 (d, J=10.99 Hz, 1H), 4.09 (d, J=11.29 Hz, 1H), 2.45-2.58 (m, 2H), 2.34-2.43 (m, 1H), 1.86-2.10 (m, 4H), 1.70 (s, 3H), 1.10 (s, 3H), 1.06 (s, 3H), 1.04-1.82 (m, 18H), 1.02 (s, 3H), 1.01 (s, 3H), 0.94 (s, 3H).

reactant | ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 15.73 mmol, 8.6 g | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)[C@@H](CC2)C(=C)C | C37H54O3
reactant | PCC | 23.59 mmol, 5.09 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | ((1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 15.16 mmol, 8.26 g, 96% yield | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CCC(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)=O)C)[C@@H](CC2)C(=C)C | C37H52O3
